US07759337B2
Step A: 5-(4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-tetrazole
4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (0.27 g, 1.0 mmol) and sodium azide (0.20 g, 3.1 mmol) were added to dioxane (5.2 mL, 1.0 mmol) before silicon tetrachloride (0.12 mL, 1.0 mmol) was added. The reaction mixture was heated to 85° C. for 7 h when two spots were observed by tlc. The reaction mixture was stirred at 60° C. overnight. The reaction mixture was diluted with 50 mL chloroform, partitioned with brine (saturated, aqueous), washed 2 times with 50 mL of chloroform, separated, dried over sodium sulfate, and concentrated in vacuo to give the title compound. MS (ES+): 287 (M+H)+.

reactant | 4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 1.0 mmol, 0.27 g | CC1=C(C=C(C(=O)N)C=C1)B1OC(C(O1)(C)C)(C)C | C14H20BNO3
reactant | sodium azide | 3.1 mmol, 0.20 g | [N-]=[N+]=[N-].[Na+]
reactant | dioxane | 1.0 mmol, 5.2 mL | O1CCOCC1 | C4H8O2
reactant | silicon tetrachloride | 1.0 mmol, 0.12 mL | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-tetrazole | CC1=C(C=C(C=C1)C1=NN=NN1)B1OC(C(O1)(C)C)(C)C | C14H19BN4O2
